US06291689B1
1-(4-fluorophenyl)-1,3-dihydroisobenzofuran-5-carboxylic acid
Crude ethyl 1-(4-fluorophenyl)-1,3-dihydroisobenzofuran-5-carboxylat (30 g) is dissolved in EtOH (96%, 150 ml) and aqueous 2N NaOH (150 ml). The solution is refluxed for 1 hour. ½ of the volume is removed in vacuo. The aqueous phase is extracted with EtOAc (2×100 ml). The aqueous phase is made acidic (pH=1, conc. HCl) and after cooling to 5° C. the white crystals are filtered off. Yield 16 g. Overall yield is 66% starting from 5-ethoxycarbonylphthalide. Mp 187-190° C.

reactant | ethyl 1-(4-fluorophenyl)-1,3-dihydroisobenzofuran-5-carboxylat | 30 g | FC1=CC=C(C=C1)C1OCC2=CC(=CC=C12)C(=O)OCC | C17H15FO3
reactant | NaOH | 2N, 150 ml | [OH-].[Na+]
solvent | EtOH | 150 ml | CCO | C2H6O
product | 1-(4-fluorophenyl)-1,3-dihydroisobenzofuran-5-carboxylic acid | yield is 66% | FC1=CC=C(C=C1)C1OCC2=CC(=CC=C12)C(=O)O | C15H11FO3
